US04144047
Preparation of Ethyl 3-(p-Tolyl)-4-Isothiazolecarboxylate.
3-(p-Tolyl)-4-isothiazolecarboxylic acid (1.5 g, 0.0068 mol), 20 ml of absolute ethanol, and boron trifluoride etherate (4.3 ml, 0.034 mol) were heated at reflux for 24 hours. Volatile materials were removed under reduced pressure. Water (25 ml) was added and the material extracted four times with ether. The ether was back-extracted with 5% NaHCO3, dried (CaSO4) and concentrated under reduced pressure to yield 1.51 g (0.0061 mol, 89.9%) of oil, nD25 = 1.5671.

reactant | 3-(p-Tolyl)-4-isothiazolecarboxylic acid | 0.0068 mol, 1.5 g | C1(=CC=C(C=C1)C1=NSC=C1C(=O)O)C | C11H9NO2S
reactant | boron trifluoride etherate | 0.034 mol, 4.3 ml | B(F)(F)F.CCOCC
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Ethyl 3-(p-Tolyl)-4-Isothiazolecarboxylate | 0.0061 mol, 1.51 g, 89.9% | C1(=CC=C(C=C1)C1=NSC=C1C(=O)OCC)C | C13H13NO2S
